US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1,2,4-thiadiazol-5-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1,2,4-thiadiazol-5-yl)-1,4-dihydropyrimidine-5-carboxylate (5.7 g, 13.4 mmol) was reacted with NBS (2.87 g, 16.1 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (2.7 g, 40%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1,2,4-thiadiazol-5-yl)-1,4-dihydropyrimidine-5-carboxylate | 13.4 mmol, 5.7 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NC=NS1 | C16H14BrFN4O2S
reactant | NBS | 16.1 mmol, 2.87 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1,2,4-thiadiazol-5-yl)-1,4-dihydropyrimidine-5-carboxylate | 2.7 g, 40% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NC=NS1 | C16H13Br2FN4O2S
